US04322417
To a solution of 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one in dimethyl formamide can be added sodium hydride and dimethyl sulfate. The mixture can be stirred and heated in a nitrogen atmosphere until the reaction is complete, treated with ethanol and purified to give 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one.

reactant | 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one | CC1=CC(N2C3=C(C=C(C=C13)C(C(F)(F)F)(C(F)(F)F)O)SCC2)=O | C15H11F6NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethanol | C(C)O | C2H6O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2,3-dihydro-7-methyl-9-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]-5H-1,4-thiazino-[2,3,4-ij]-quinolin-5-one | CC1=CC(N2C3=C(C=C(C=C13)C(C(F)(F)F)(C(F)(F)F)OC)SCC2)=O | C16H13F6NO2S
